US09290511B2
2-[[2-(5-Isopropylthieno[2,3-d]pyrimidin-4-yl)-2-azabicyclo[2.2.1]heptan-5-yl]oxy]ethanol (0.56 g, 1.7 mmol) was stirred in DCM (13.25 g, 10 mL, 156.0 mmol) at 0° C. Triethylamine (0.52 g, 0.71 mL, 5.0 mmol) was added. Methanesulfonyl chloride (0.29 g, 0.20 mL, 2.5 mmol) was added dropwise and the reaction allowed to warm slowly to room temperature and stirred for 1 hour. The reaction mixture was diluted with DCM, washed with water, dried over Na2SO4 and concentrated in vacuo to afford 2-[[2-(5-isopropylthieno[2,3-d]pyrimidin-4-yl)-2-azabicyclo[2.2.1]heptan-5-yl]oxy]ethyl methanesulfonate (0.747 g). LCMS RT=3.94 min. M+1=412.

reactant | 2-[[2-(5-Isopropylthieno[2,3-d]pyrimidin-4-yl)-2-azabicyclo[2.2.1]heptan-5-yl]oxy]ethanol | 1.7 mmol, 0.56 g | C(C)(C)C1=CSC=2N=CN=C(C21)N2C1CC(C(C2)C1)OCCO | C17H23N3O2S
reactant | Triethylamine | 5.0 mmol, 0.71 mL, 0.52 g | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 2.5 mmol, 0.20 mL, 0.29 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 156.0 mmol, 10 mL, 13.25 g | C(Cl)Cl | CH2Cl2
product | 2-[[2-(5-isopropylthieno[2,3-d]pyrimidin-4-yl)-2-azabicyclo[2.2.1]heptan-5-yl]oxy]ethyl methanesulfonate | 0.747 g | CS(=O)(=O)OCCOC1C2CN(C(C1)C2)C=2C1=C(N=CN2)SC=C1C(C)C | C18H25N3O4S2
